US07772245B2
To a stirred solution of NaCN (1.4 g, 28.5 mmol) in DMSO (8 mL) was added 3-(chloromethyl)-1-benzothiophene (4 gm, 21.9 mmol) in DMSO (6 mL) over 15 min. The reaction mixture was stirred at room temperature for 18 h and then quenched with water and extracted with ether (2×50 mL). The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography using ethyl acetate-hexane (1:1) to furnish 1-benzothien-3-ylacetonitrile (2.5 g, 65%). 1H NMR (200 MHz, CDCl3): δ 3.69 (s, 2H), 7.25-7.91 (m, 5H).

reactant | NaCN | 28.5 mmol, 1.4 g | [C-]#N.[Na+]
reactant | 3-(chloromethyl)-1-benzothiophene | 21.9 mmol, 4 gm | ClCC1=CSC2=C1C=CC=C2 | C9H7ClS
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | 1-benzothien-3-ylacetonitrile | 2.5 g, 65% | S1C=C(C2=C1C=CC=C2)CC#N | C10H7NS
